US07625896B2
2,4-dichlorobenzoic acid (63 μL, 0.45 mmol) and N,N-dimethyl formamide (DMF) (50 μl) was dissolved in dichloromethane (10 mL). Oxalyl chloride (0.57 mL, 6.7 mmol) was added and the solution stirred at room temperature for 2 hours. The reaction was monitored to completion by LC-MS. The reaction was concentrated in vacuo to afford crude 2,4-dichlorobenzoyl chloride.

reactant | 2,4-dichlorobenzoic acid | 0.45 mmol, 63 μL | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | N,N-dimethyl formamide | 50 μl | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 6.7 mmol, 0.57 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
